US07485637B2
1c: (2-Morpholin-4-yl-5-nitro-phenyl)-(4-phenyl-3,6-dihydro-2H-pyridin-1-yl)-methanone
A mixture of 40.6 mg (0.15 mmol) of 2-morpholin-4-yl-5-nitro-benzoyl chloride, 29 mg (0.18 mmol) 4-phenyl-1,2,3,6-tetrahydro-pyridine (commercial) and 62.5 ul (0.45 mmol) NEt3 in 1 ml DCM was stirred at room temperature for 16 h. After evaporation of the volatiles the residue was taken up in 1 ml CH3CN/DMF/HCOOH 3/5/2 and subjected to preparative HPLC purification on reversed phase eluting with an acetonitrile/water gradient to yield after evaporation the title compound.

reactant | 2-morpholin-4-yl-5-nitro-benzoyl chloride | 0.15 mmol, 40.6 mg | N1(CCOCC1)C1=C(C(=O)Cl)C=C(C=C1)[N+](=O)[O-] | C11H11ClN2O4
reactant | 4-phenyl-1,2,3,6-tetrahydro-pyridine | 0.18 mmol, 29 mg | C1(=CC=CC=C1)C=1CCNCC1 | C11H13N
reactant | NEt3 | 0.45 mmol, 62.5 ul | CCN(CC)CC | C6H15N
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
product | (2-Morpholin-4-yl-5-nitro-phenyl)-(4-phenyl-3,6-dihydro-2H-pyridin-1-yl)-methanone | N1(CCOCC1)C1=C(C=C(C=C1)[N+](=O)[O-])C(=O)N1CCC(=CC1)C1=CC=CC=C1 | C22H23N3O4
